US06307054B1
To a stirred solution of 1(S)2-(5-chloro-2-thienyl-1-hydroxy-1-methylethane (5.7 g) in tetrahydrofuran (100 mL) is added triphenylphosphine (5.34 g) and benzoic acid (2.49 g). Diethyl azodicarboxylate (3.22 mL) is added dropwise and the mixture stirred at room temperature for about 18 hours. The solvent is removed in vacuo. The residue is purified by flash chromatography, eluting with 30% hexanes in methylene chloride, to give (R)-3-(5-chloro-2-thienyl)-2-propyl benzoate. The ester (3.91 g) is dissolved in dioxane (50 mL) and 20% aqueous sodium hydroxide (15 mL) is added. The mixture is heated at 55° C. for 3 hours and concentrated in vacuo. The residue is taken up in ethyl acetate (200 mL) and the organic layer washed with brine, dried over magnesium sulfate, filtered, concentrated in vacuo to give the desired product.

reactant | 5-chloro-2-thienyl-1-hydroxy-1-methylethane | 5.7 g | ClC1=CC=C(S1)C(C)(C)O | C7H9ClOS
reactant | triphenylphosphine | 5.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzoic acid | 2.49 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | Diethyl azodicarboxylate | 3.22 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (R)-3-(5-chloro-2-thienyl)-2-propyl benzoate | C(C1=CC=CC=C1)(=O)O[C@H](C)CC=1SC(=CC1)Cl | C14H13ClO2S
